US04208501
A. Synthesis of 1-Bromo-1-tetradecyne.
A 250 ml, three-necked, round bottom flask was fitted with mechanical stirrer, thermometer, addition funnel and means for providing nitrogen atmosphere. To the flask was added 41 ml (0.10 mole) of 2.4 M butyl lithium/hexane solution and 40 ml of anhydrous ether. The resulting mixture was stirred vigorously and 17.2 g (0.090 mole) of tetradecyne was added over a period of 25 min at -10° C. After stirring at -10° to -15° C. for an additional 35 min, the reaction mixture was cooled in a Dry Ice/acetone bath. About 16.0 g (0.10 mole) of bromine was added dropwise over a period of 90 min at -60° C. to -68° C. After stirring at -40° C. for an additional 40 min, the reaction mixture was poured into 100 ml of water. The resulting mixture was extracted twice with 50 ml portions of ether. The combined ethereal layers were washed twice with 50 ml portions of sodium bicarbonate solution, dried, and concentrated, resulting in 21.9 g (80% yield) of light yellow liquid. I.R. (film/neat) in cm-1 : 2230 (C≡C), 1470 (CH2), 720 [--(CH2)n --, n≥4].

reactant | butyl lithium hexane | 0.10 mole, 2.4 M, 41 ml | C(CCC)[Li].CCCCCC
reactant | ether | 40 ml | CCOCC | C4H10O
reactant | tetradecyne | 0.090 mole, 17.2 g | C#CCCCCCCCCCCCC | C14H26
reactant | bromine | 0.10 mole, 16.0 g | BrBr | Br2
solvent | water | 100 ml | O | H2O
product | 1-Bromo-1-tetradecyne | 80% yield | BrC#CCCCCCCCCCCCC | C14H25Br
